US05965679
(d) Preparation of 4-(Phenylethynyl)benzil
4-Bromobenzil (10.0 g, 0.0346 mol), phenylacetylene (3.88 g, 0.0380 mol), and (PPh3)2PdCl2 (0.121 g, 0.0002 mol) in diethylamine (950 mL) is stirred at ambient temperature for 72 hours, followed by concentration to dryness. The residue is then taken up in methylene chloride. Standard aqueous workup followed by recrystallization from 2-propanol gives the title compound.

reactant | 4-Bromobenzil | 0.0346 mol, 10.0 g | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H9BrO2
reactant | phenylacetylene | 0.0380 mol, 3.88 g | C1(=CC=CC=C1)C#C | C8H6
solvent | diethylamine | 950 mL | C(C)NCC | C4H11N
catalyst | (PPh3)2PdCl2 | 0.0002 mol, 0.121 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(Phenylethynyl)benzil | C1(=CC=CC=C1)C#CC1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1 | C22H14O2
